US06218404B1
4-(1-Adamantylmethyl)-1-(2-(4-hydroxyphenoxy)ethyl)piperidine
b)The title compound was prepared from 4-(1-adamantylmethyl)piperidine hydrochloride (350 mg, 1.30 mmol) and 2-(4-hydroxyphenoxy)ethyl bromide (295 mg, 1.36 mmol) as a beige crystalline solid (387 mg, 81%): mp 178-179° C.; 1H NMR (DMSO-d6) 0.93 (d, J=5.1, 2H), 1.05-1.70 (m, 17H), 1.85-2.07 (m, 5H), 2.56 (t, J=6.0, 2H), 2.72-2.88 (m, 2H), 3.90 (t, J=6.0, 2H), 6.63 (d, J=9.0, 2H), 6.71 (d, J=9.0, 2H), 8.88 (bs, 1H); Anal. calcd for C24H35NO2: C, 78.00; H, 9.55; N, 3.79. Found: C, 78.03; H, 9.44; N, 3.77.

reactant | 4-(1-adamantylmethyl)piperidine hydrochloride | 1.30 mmol, 350 mg | Cl.C12(CC3CC(CC(C1)C3)C2)CC2CCNCC2
reactant | 2-(4-hydroxyphenoxy)ethyl bromide | 1.36 mmol, 295 mg | OC1=CC=C(OCCBr)C=C1 | C8H9BrO2
product | 4-(1-Adamantylmethyl)-1-(2-(4-hydroxyphenoxy)ethyl)piperidine | C12(CC3CC(CC(C1)C3)C2)CC2CCN(CC2)CCOC2=CC=C(C=C2)O | C24H35NO2
